US06858638B2
N-[3-(3-Aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 59 from 0.5 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 276 mg of 3-aminophenylboronic acid, 20 ml of dimethylformamide, 1.6 ml of a saturated aqueous sodium hydrogencarbonate solution and 25 mg of tetrakis(triphenylphosphine)palladium[0]. 102 mg of N-[3-(3-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a white solid melting at 220° C. (analysis C20H18N4O4S2 % calculated C, 54.29; H, 4.10; N, 12.66; O, 14.46; S, 14.49. % found C, 53.48; H, 4.11 N, 12.50; S, 13.95).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 0.5 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | 3-aminophenylboronic acid | 276 mg | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | sodium hydrogencarbonate | 1.6 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[3-(3-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 102 mg | NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H18N4O4S2
